US07994202B2
Ethyl 2-(3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate
To a solution of 3-phenyl-1H-indazole (689 mg) synthesized according to the literature (T. Edward C., et al., Tetrahedron, 1991, 47, 9599-9620) in mesitylene (5 mL, manufactured by Kanto Chemical Co., Inc.), potassium phosphate (2.38 g, manufactured by Wako Pure Chemical Industries, Ltd.), (1S,2S)-(+)-N,N-dimethylcyclohexane-1,2-diamine (50 mg, manufactured by Tokyo Chemical Industry Co., Ltd.), copper iodide (34 mg, manufactured by Kanto Chemical Co., Inc.), and ethyl 2-bromo-4-thiazolecarboxylate (840 mg) synthesized according to the literature (T. R. Kelly, et al., J. Org. Chem., 1996, 61, 4623-4633) were added, and the mixture was heated overnight at 180° C. The reaction solution was cooled to room temperature, and then water (20 mL) was added thereto. Ethyl acetate was extracted (3×20 mL), washed with brine (20 mL), and dried (MgSO4), and then the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1), to give 579 mg of the title compound. LC-MS: HPLC retention time 6.80 minutes, m/z 350 (M+H), condition B-1.

reactant | 3-phenyl-1H-indazole | 689 mg | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | potassium phosphate | 2.38 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (1S,2S)-(+)-N,N-dimethylcyclohexane-1,2-diamine | 50 mg | CN([C@@H]1[C@H](CCCC1)N)C | C8H18N2
reactant | ethyl 2-bromo-4-thiazolecarboxylate | 840 mg | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
solvent | mesitylene | 5 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | copper iodide | 34 mg | [Cu](I)I
solvent | water | 20 mL | O | H2O
product | Ethyl 2-(3-phenyl-1H-indazol-1-yl)thiazole-4-carboxylate | 579 mg | C1(=CC=CC=C1)C1=NN(C2=CC=CC=C12)C=1SC=C(N1)C(=O)OCC | C19H15N3O2S
